US07691882B2
5-Fluoro-2-(3-fluoro-4-(2-nitro-ethyl)-phenoxymethyl)-pyridine
To a dimethyl sulfoxide (20.0 mL)-tetrahydrofuran (5.00 mL) solution of 5-fluoro-2-(3-fluoro-4-((E)-2-nitro-vinyl)-phenoxymethyl)-pyridine (1.00 g, 3.42 mmol) described in Manufacturing Example 96-1-2 and acetic acid (1.00 mL) was added sodium borohydride (207 mg, 5.47 mmol) at room temperature while cooling appropriately under nitrogen atmosphere, which was stirred for 10 minutes at room temperature. Water was then added dropwise at room temperature while cooling appropriately. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was crystallized with an ethyl acetate:heptane system and filtered to obtain the title compound (346 mg, 34.4%).

reactant | dimethyl sulfoxide | 20.0 mL | CS(=O)C | C2H6OS
reactant | tetrahydrofuran | 5.00 mL | O1CCCC1 | C4H8O
reactant | 5-fluoro-2-(3-fluoro-4-((E)-2-nitro-vinyl)-phenoxymethyl)-pyridine | 3.42 mmol, 1.00 g | FC=1C=CC(=NC1)COC1=CC(=C(C=C1)\C=C\[N+](=O)[O-])F | C14H10F2N2O3
reactant | sodium borohydride | 5.47 mmol, 207 mg | [BH4-].[Na+]
solvent | Water | O | H2O
solvent | acetic acid | 1.00 mL | C(C)(=O)O | C2H4O2
product | 5-Fluoro-2-(3-fluoro-4-(2-nitro-ethyl)-phenoxymethyl)-pyridine | 346 mg, 34.4% | FC=1C=CC(=NC1)COC1=CC(=C(C=C1)CC[N+](=O)[O-])F | C14H12F2N2O3
